US05726126
Preparation of 1-(5-Amino-2-chloro-4-fluorophenyl)-3-methyl-s-triazine-2,4,6(1H 3H 5H)-trione
A mixture of 1-(2-chloro-4-fluoro-5-nitrophenyl)-3-methyl-s-triazine-2,4,6(1H,3H,5H)-trione (28.5 g, 0.09 mol) and 5% platinum on activated carbon (1 g) in ethyl acetate is hydrogenated at 55 psi until hydrogen uptake is complete. The reaction mixture is then filtered and concentrated in vacuo to give the title product as a white solid, mp 244°-245° C.

reactant | 1-(2-chloro-4-fluoro-5-nitrophenyl)-3-methyl-s-triazine-2,4,6(1H,3H,5H)-trione | 0.09 mol, 28.5 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])N1C(N(C(NC1=O)=O)C)=O | C10H6ClFN4O5
reactant | hydrogen | [H][H] | H2
catalyst | platinum on activated carbon | 1 g | [Pt] | Pt
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(5-Amino-2-chloro-4-fluorophenyl)-3-methyl-s-triazine | NC=1C(=CC(=C(C1)N1CN(CN=C1)C)Cl)F | C10H12ClFN4
